US04956359
(E)-N-(2-Butenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A solution of 3.6 g (0.022 mole) of 1,1'-carbonyldiimidazole in 60 ml of methylene chloride was cooled in an ice bath while stirring under nitrogen while 1.6 g (0.022 mole) of trans-crotylamine was added dropwise. After warming to ambient temperature, 6.2 g (0.02 mole) of 3-[3-(trifluoromethyl)phenoxy]azetidine oxalate was added all at once followed in 0.25 hr by 5 ml of triethylamine with stirring continued for 72 hr. The reaction solution was washed with 2×50 ml of water, dried over magnesium sulfate and concentrated on a rotary evaporator to a solid residue, 7 g. Recrystallization from methanol-water gave 5.5 g of slightly yellow product. A second recrystallization with charcoal treatment from isopropyl ether yielded 3.75 g (59.7%) of fine white crystals, m.p. 127°-128° C.

reactant | 1,1'-carbonyldiimidazole | 0.022 mole, 3.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | trans-crotylamine | 0.022 mole, 1.6 g | C(\C=C\C)N | C4H9N
reactant | 3-[3-(trifluoromethyl)phenoxy]azetidine oxalate | 0.02 mole, 6.2 g | C(C(=O)O)(=O)O.FC(C=1C=C(OC2CNC2)C=CC1)(F)F
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | (E)-N-(2-Butenyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 3.75 g, 59.7% | C(\C=C\C)NC(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C15H17F3N2O2
